US08754103B2
A suspension of N-(4-(6-chloropyridazin-3-yl)phenyl)methanesulfonamide (2.82 mmole) in hydrazine monohydrate (6 mL) was heated at 120 C for 1 hour and evaporated in vacuo. The residue was dissolved in dicholomethane, washed with water, dried over Na2SO4, and evaporated in vacuo to afford N-(4-(6-hydrazinylpyridazin-3-yl)phenyl)methanesulfonamide.

reactant | N-(4-(6-chloropyridazin-3-yl)phenyl)methanesulfonamide | 2.82 mmole | ClC1=CC=C(N=N1)C1=CC=C(C=C1)NS(=O)(=O)C | C11H10ClN3O2S
reactant | hydrazine monohydrate | 6 mL | O.NN
product | N-(4-(6-hydrazinylpyridazin-3-yl)phenyl)methanesulfonamide | N(N)C1=CC=C(N=N1)C1=CC=C(C=C1)NS(=O)(=O)C | C11H13N5O2S
